* ==========================================================
* TSPC D Flip-Flop PVT Characterization Testbench
* Technology : 45nm CMOS
* Tool       : LTspice
* Description: Clock-to-Q delay, power and noise analysis
* ==========================================================

* ----- Parameters and PVT sweep -----
.param SUPPLY=0.5
; .step param SUPPLY LIST 0.25 0.30 0.35 0.40 0.45 0.50
.temp -40 27 85

* ----- Supply Source -----
Vdd Vdd 0 DC {SUPPLY}

* ----- Input Stimulus -----
Vclk CLK 0 PULSE(0 {SUPPLY} 0 10p 10p 50n 100n)
Vd   D   0 PULSE(0 {SUPPLY} 50n 10p 10p 100n 200n)

* ----- Measurement Helpers -----
.param mid = {SUPPLY/2}

* Clock-to-Q delay
.meas TRAN tpdr TRIG V(CLK) VAL={mid} RISE=1 FROM=0 TO=2u TARG V(OUT) VAL={mid} RISE=1
.meas TRAN tpdf TRIG V(CLK) VAL={mid} FALL=1 FROM=0 TO=2u TARG V(OUT) VAL={mid} FALL=1
.meas TRAN tpd PARAM = (tpdr + tpdf)/2

* Output transition times
.meas TRAN tr_10_90 TRIG V(OUT) VAL={0.1*SUPPLY} RISE=1 FROM=0 TO=2u TARG V(OUT) VAL={0.9*SUPPLY} RISE=1
.meas TRAN tf_90_10 TRIG V(OUT) VAL={0.9*SUPPLY} FALL=1 FROM=0 TO=2u TARG V(OUT) VAL={0.1*SUPPLY} FALL=1

* Output voltage levels and power
.meas TRAN Vout_max MAX V(OUT) FROM=0 TO=2u
.meas TRAN Vout_min MIN V(OUT) FROM=0 TO=2u
.meas TRAN Iavg AVG I(Vdd) FROM=0 TO=2u
.meas TRAN Pavg PARAM = abs(Iavg*SUPPLY)

* ----- Models -----
.include 45nmHP.txt

* ----- Noise Analysis -----
.noise V(OUT) Vd oct 100 100 10Meg

* ----- Transient Analysis -----
.tran 0 2u 0 10p

.end
